US07935815B2
Synthesis of N-(2,6-difluoropyridin-3-yl)formamide
Acetic anhydride (6 ml) was added to formic acid (6 ml), followed by stirring at room temperature for 20 minutes. Then, a solution of 2,6-difluoro-3-aminopyridine (2.06 g) in tert-butyl methyl ether (7 ml) was added so that the reaction solution was maintained at room temperature. The reaction solution was further stirred at room temperature for four hours. Ethyl acetate and a saturated sodium bicarbonate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (2.42 g). The property values of the compound are as follows.

reactant | Acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 6 ml | C(=O)O | CH2O2
reactant | 2,6-difluoro-3-aminopyridine | 2.06 g | FC1=NC(=CC=C1N)F | C5H4F2N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tert-butyl methyl ether | 7 ml | COC(C)(C)C | C5H12O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2,6-difluoropyridin-3-yl)formamide | 2.42 g | FC1=NC(=CC=C1NC=O)F | C6H4F2N2O
